US09302980B2
Production of (S)-tert-leucine
Methanesulfonic acid (576 mg, 6 mmol) was added to a solution of (S)—N-(tert-butoxycarbonyl)-tert-leucine (1155 mg, 5 mmol) and methylene chloride (5 mL), and the mixture was stirred at 25° C. for 3 hours. When triethylamine (708 mg, 7 mmol) was added thereto, a solid was precipitated. The solid was sufficiently precipitated, and then the solution was stirred at 25° C. for 30 minutes and further stirred at 25° C. for 30 minutes. Thereafter, the solid was separated by filtration under reduced pressure. The solid was washed with methylene chloride (5 mL), and then was subjected to vacuum drying. Thereby, the titled compound was produced as a white solid (514 mg, yield of 75%).

reactant | Methanesulfonic acid | 6 mmol, 576 mg | CS(=O)(=O)O | CH4O3S
reactant | (S)—N-(tert-butoxycarbonyl)-tert-leucine | 5 mmol, 1155 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C11H21NO4
reactant | triethylamine | 7 mmol, 708 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-leucine | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
